US05508408
Example 24: 4-[3-(6-methyl-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
3-(6-methyl-2-quinolinylmethoxy)aniline: 0.43 g of NaH (95%) is added at 0° to a solution of 1.85 g of 3-aminophenol in 30 ml of DMF and then the batch is stirred for 30 min. at 0°. 3.2 g of 2-chloromethyl-6-methyl-quinoline [see C.A. 82, 57733p and U.S. Pat. No. 3,829,573] in solid form are then added and the batch is stirred for a further one hour at 0° and for another hour at 20°. It is then diluted with ethyl acetate, washed with water, dried over Na2SO4 and concentrated by evaporation. The evaporation residue is chromatographed on 250 g of silica gel. The product-containing fractions eluted with toluene/ethyl acetate 95:5 and 9:1 are combined and concentrated by evaporation to give the title compound which is further purified by being crystallised twice from CH2Cl2 /ether/hexane.

reactant | 3-(6-methyl-2-quinolinylmethoxy)aniline | CC=1C=C2C=CC(=NC2=CC1)COC=1C=C(N)C=CC1 | C17H16N2O
reactant | NaH | 0.43 g | [H-].[Na+]
reactant | 3-aminophenol | 1.85 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2-chloromethyl-6-methyl-quinoline | 3.2 g | ClCC1=NC2=CC=C(C=C2C=C1)C | C11H10ClN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-[3-(6-methyl-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | CC=1C=C2C=CC(=NC2=CC1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | C25H28N2O4
